US08865321B2
Synthesis of 4,5-dimethyl-N,N′-di-p-tolyl-1,2-benzenediamine
The synthesis is carried out in accordance with the general procedure in accordance with Example 2 from 63.3 g (240 mmol) of 1,2-dibromo-4,5-dimethylbenzene and 54 ml (505 mmol) of p-toluidine. The precipitated solid is recrystallised from toluene/acetonitrile (5:1), and the residue is washed with MeOH, giving 69 g (218 mmol) of a crystalline solid. The overall yield is 91%.

reactant | 1,2-dibromo-4,5-dimethylbenzene | 240 mmol, 63.3 g | BrC1=C(C=C(C(=C1)C)C)Br | C8H8Br2
reactant | p-toluidine | 505 mmol, 54 ml | NC1=CC=C(C=C1)C | C7H9N
product | 4,5-dimethyl-N,N′-di-p-tolyl-1,2-benzenediamine | 218 mmol, 69 g, yield is 91% | CC=1C=C(C(=CC1C)NC1=CC=C(C=C1)C)NC1=CC=C(C=C1)C | C22H24N2
